US06316415B1
To 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-hydroxy-pentanoic acid, tert-butyl ester (0.9 g, 1.7 mMol) in 20 mL of dichloromethane was added 1.1.1-triacetoxy-1.1-dihydro-1.2-benziodoxol-3-(1H)-one (Dess Martin periodinane, 1.08 g, 2.5 mMol). After 2 hours at room temperature the reaction mixture was diluted with ether, filtered, washed with sodium hydrogen carbonate and water, dried over sodium sulfate, and concentrated under reduced pressure. Chromatography over silica (elution with dichloromethane/methanol 15:1) gave 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-oxo-pentanoic acid, tert-butyl ester (0.45 g).

reactant | 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-hydroxy-pentanoic acid, tert-butyl ester | 1.7 mMol, 0.9 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)OC(C)(C)C)NC(=O)C)C(CNS(=O)(=O)C1=CC=CC=C1)O | C26H33N3O7S
reactant | 1.1.1-triacetoxy-1.1-dihydro-1.2-benziodoxol-3-(1H)-one | 2.5 mMol, 1.08 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-(1,2,3,4-tetrahydro-1-oxo-isoquinoline-2-yl)-acetamino-5-benzenesulfonylamino-4-oxo-pentanoic acid, tert-butyl ester | 0.45 g | O=C1N(CCC2=CC=CC=C12)C(C(C(=O)OC(C)(C)C)NC(=O)C)C(CNS(=O)(=O)C1=CC=CC=C1)=O | C26H31N3O7S
